US06107329
5-Chloro-1H-indole-2-carboxylic acid [1-benzyl-2-oxo-2-(4-oxo-piperidin-1-yl)-ethyl]-amide
4-Piperidone monohydrate (2.0 mmol) and 2-[(5-chloro-1H-indole-2-carbonyl)-amino]-3-phenyl-propionic acid (1.0 mmol) were coupled according to procedure A (0-25° C. reaction temperature) substituting the following workup: the reaction mixture was diluted with ethyl acetate, the resulting solution washed with 2N NaOH and 2N HCl, the suspension filtered and the solids dried: Yield 111 mg, 26%; HPLC (60/40) 8.88 minutes (92%); PBMS 424/426 (MH+, 100%); mp 258-261° C.; PBMS 424/426 (MH+, 100%);

reactant | 4-Piperidone monohydrate | 2.0 mmol | O.N1CCC(CC1)=O
reactant | 2-[(5-chloro-1H-indole-2-carbonyl)-amino]-3-phenyl-propionic acid | 1.0 mmol | ClC=1C=C2C=C(NC2=CC1)C(=O)NC(C(=O)O)CC1=CC=CC=C1 | C18H15ClN2O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Chloro-1H-indole-2-carboxylic acid [1-benzyl-2-oxo-2-(4-oxo-piperidin-1-yl)-ethyl]-amide | C(C1=CC=CC=C1)C(C(N1CCC(CC1)=O)=O)NC(=O)C=1NC2=CC=C(C=C2C1)Cl | C23H22ClN3O3
